US05545652
1-(4-Trifluoromethylphenyl)-2(1H,3H)-imidazolone (1.15 g) was dissolved in 20 ml of acetic acid. 10% Palladium-carbon (0.3 g) was added thereto and the mixture was stirred under a hydrogen stream for six hours. The catalyst was filtered off, the solvent was distilled off and the residue was recrystallized from ethyl acetate-diisopropyl ether to give 0.95 g of 1-(4-trifluoromethylphenyl)-2-imidazolidinone as colorless prisms.

reactant | 1-(4-Trifluoromethylphenyl)-2(1H,3H)-imidazolone | 1.15 g | FC(C1=CC=C(C=C1)N1C(NC=C1)=O)(F)F | C10H7F3N2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | Palladium-carbon | 0.3 g | [C].[Pd]
product | 1-(4-trifluoromethylphenyl)-2-imidazolidinone | 0.95 g | FC(C1=CC=C(C=C1)N1C(NCC1)=O)(F)F | C10H9F3N2O
